US06992095B2
(a) Methyl 3-adamant-1-yl-4-trifluoromethane-sulphonyloxybenzoate.
28.6 g (100.0 mmol) of methyl 3-(1-adamantyl)-4-hydroxybenzoate was mixed with 122 mg (1.0 mmol) of N,N-dimethylaminopyridine, 200 ml of dichloromethane and 28 ml of pyridine in a one liter three-necked flask under a nitrogen atmosphere. The mixture was cooled to −78° C. and 20.19 ml (120.0 mmol) of triflic anhydride was added dropwise. The temperature was raised to room temperature and the mixture was continuously stirred for two hours. The reaction medium was poured into 1N hydrochloric acid solution, extracted with ethyl ether, washed with water, dried over magnesium sulfate, filtered and evaporated to dryness. 41.5 g (99%) of the expected compound was collected in the form of a pale orange powder-with a melting point of 95° C.

reactant | methyl 3-(1-adamantyl)-4-hydroxybenzoate | 100.0 mmol, 28.6 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2O | C18H22O3
reactant | dichloromethane | 200 ml | ClCCl | CH2Cl2
reactant | triflic anhydride | 120.0 mmol, 20.19 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | pyridine | 28 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 3-adamant-1-yl-4-trifluoromethane-sulphonyloxybenzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC)C=CC2OS(=O)(=O)C(F)(F)F | C19H21F3O5S
